US07745641B2
4-Chloro-5-trifluoromethanesulfonyloxy-7-[1-(tert-butoxycarbonyl)-5-(piperidin-1-ylmethyl)indol-2-yl]isoindolinone (100 mg, 0.159 mmol) was dissolved in dimethoxyethane (5.0 mL), and the solution was added with phenylboronic acid (58.2 mg, 0.478 mmol), [bis(diphenylphosphino)ferrocene]dichloropalladium (10.4 mg, 0.0130 mmol) and cesium fluoride (145 mg, 0.954 mmol), followed by stirring at 90° C. for 6.0 hours under argon atmosphere. The reaction mixture was added with water and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by preparative thin-layer chromatography (chloroform/methanol=9/1) to obtain 4-chloro-5-phenyl-7-[1-(tert-butoxycarbonyl)-5-(piperidin-1-ylmethyl)indol-2-yl]isoindolinone (44.5 mg, yield 50%).

reactant | 4-Chloro-5-trifluoromethanesulfonyloxy-7-[1-(tert-butoxycarbonyl)-5-(piperidin-1-ylmethyl)indol-2-yl]isoindolinone | 0.159 mmol, 100 mg | ClC1=C2CNC(C2=C(C=C1OS(=O)(=O)C(F)(F)F)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C28H29ClF3N3O6S
reactant | phenylboronic acid | 0.478 mmol, 58.2 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | cesium fluoride | 0.954 mmol, 145 mg | [F-].[Cs+]
reactant | water | O | H2O
solvent | dimethoxyethane | 5.0 mL | C(OC)COC | C4H10O2
product | 4-chloro-5-phenyl-7-[1-(tert-butoxycarbonyl)-5-(piperidin-1-ylmethyl)indol-2-yl]isoindolinone | 44.5 mg, yield 50% | ClC1=C2CNC(C2=C(C=C1C1=CC=CC=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C33H34ClN3O3
